US04774253
3.57 g (37 mmol) of triethylamine in 30 ml of dry dimethylformamide were added during 10 minutes while stirring and cooling at 10° C. to a solution of 6.33 g (33.3 mmol) of 4-chlorobenzene N-hydroxycarboximidoyl chloride in 60 ml of dry dimethylformamide. After 1 hour at 20° C. the solution of 4-chlorobenzonitrile oxide formed was poured into water and filtered off. The moist solid was dissolved in 150 ml of diethyl ether and dried twice with 10 g of molecular sieve (3A) each time. The ethereal solution was filtered and there were added thereto at 5° C. 6.56 g (36.6 mmol) of methyl 2-propynyloxy-2-methylpropionate in 25 ml of diethyl ether. After 24 hours the ether was removed and the product was purified by column chromatography on 220 g of silica gel using hexane/ethyl acetate (4:1) and then hexane/ethyl acetate (2:1) for the elution. There were obtained 4.67 g of methyl 2-[[3-(4-chlorophenyl)-5-isoxazolyl]methoxy]-2-methylpropionate in the form of a colourless oil having a purity of 99% according to high pressure liquid chromatography.

reactant | triethylamine | 37 mmol, 3.57 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzene | 33.3 mmol, 6.33 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-chlorobenzonitrile oxide | ClC1=CC=C(C#[N+][O-])C=C1 | C7H4ClNO
